US09353066B2
Palladium on carbon (10 wt %, 67.5 mg, 0.063 mmol) was added to a solution of morpholin-4-yl(5-nitrobiphenyl-3-yl)methanone (198 mg, 0.634 mmol) in ethyl acetate (5.7 mL) and acetic acid (0.57 mL). The mixture was fitted with a hydrogen balloon and stirred for 3 hours at room temperature. Dichloromethane was added, and the mixture was filtered through CELITE, rinsed with dichloromethane rinse and washed with saturated aqueous NaHCO3 (30 mL). The organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to provide (5-aminobiphenyl-3-yl)(morpholin-4-yl)methanone as a white solid which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.61-7.51 (m, 2H), 7.44 (t, J=7.4 Hz, 2H), 7.37 (dd, J=8.4, 6.2 Hz, 1H), 6.97 (s, 1H), 6.96-6.91 (m, 1H), 6.75-6.63 (m, 1H), 3.89 (s, 2H), 3.85-3.37 (m, 8H).

reactant | morpholin-4-yl(5-nitrobiphenyl-3-yl)methanone | 0.634 mmol, 198 mg | N1(CCOCC1)C(=O)C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H16N2O4
reactant | hydrogen | [H][H] | H2
reactant | Dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium on carbon | 0.063 mmol, 67.5 mg | [Pd] | Pd
solvent | ethyl acetate | 5.7 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.57 mL | C(C)(=O)O | C2H4O2
product | (5-aminobiphenyl-3-yl)(morpholin-4-yl)methanone | NC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)N1CCOCC1 | C17H18N2O2
